US06342516B1
To a solution of 2-hydroxypyridine(5 g) in DMF(150 ml) was added silver oxide (I) (24 g) and methyl bromoacetate(20 g) and stirred at room temperature for 2 hours. After the catalyst was filtered off through celite, the filtrate was evaporated. The residue was dissolved in ethyl acetate and the solution was washed with brine, dried(MgSO4) and evaporated to dryness. The residue was purified by column chromatography on silica gel (chloroform: methanol=100:1) to obtain methyl 2-(2-pyridyloxy)acetate(1.0 g). According to the same manner as described above, the title compound was synthesized (0.1 g). m.p. 110° C.

reactant | 2-hydroxypyridine | 5 g | OC1=NC=CC=C1 | C5H5NO
reactant | methyl bromoacetate | 20 g | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
catalyst | silver oxide | 24 g | [Ag]=O
product | methyl 2-(2-pyridyloxy)acetate | 1.0 g | N1=C(C=CC=C1)OCC(=O)OC | C8H9NO3
